US07960552B2
To a solution of ethyl 5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (3.0 g, 8.6 mmol) in tetrahydrofuran (35 mL) at 0° C. was added a 1.5 M solution of diisobutylaluminum hydride in toluene (8.6 mL, 13 mmol) dropwise. The solution was allowed to stir while warming slowly for approximately 3.5 hours and was re-cooled to 0° C. An additional portion of diisobutylaluminum hydride (4.3 mL, 6.5 mmol) was added and the solution was allowed to stir for an additional 35 minutes. Then Rochelle's salt (40 mL) was added slowly at 0° C. followed by some ethyl acetate. The mixture was allowed to warm to ambient temperature and stirred overnight. The layers were separated and the ethyl acetate was washed with brine, dried over magnesium sulfate and concentrated to afford [5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol (2.59 g, 82%). 1H-NMR (400 MHz, DMSO-d6) δ 7.61-7.51 (m, 3H), 4.85 (t, J=5 Hz, 1H), 4.14 (d, J=5 Hz, 2H), 3.46-3.48 (m, 1H), 2.07-1.99 (m, 2H), 1.81-1.60 (m, 6H).

reactant | ethyl 5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 8.6 mmol, 3.0 g | C1(CCCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C17H17Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 13 mmol, 8.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 6.5 mmol, 4.3 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | 40 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | 2.59 g, 82% | C1(CCCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C15H15Cl2NO2
